US05354866
1-(t-Butyldimethylsilyloxy)-3-(p-nitrophenoxycarbonyloxy)propane
A 0.604 g (3.00 mmol) sample of p-nitrophenoxycarbonylchloride in 3 mL of methylene chloride was added to a solution of 0.570 g (3.00 mmol) of 3-(t-butyldimethylsilyloxy)-1-propanol and 0.329 mL of 4-methylmorpholine in 2 mL of methylene chloride cooled in an ice bath. The solution was stirred for 2 hours. The mixture was diluted with methylene chloride, which was washed with water, dried and concentrated. The crude product was chromatographed on silica gel, eluting with 10% ethyl acetate in hexane. The solvent was removed and the product dried to afford 0.831 g of the title compound, which was taken directly to the next step.

reactant | p-nitrophenoxycarbonylchloride | [N+](=O)([O-])C1=CC=C(OC(=O)Cl)C=C1 | C7H4ClNO4
reactant | 3-(t-butyldimethylsilyloxy)-1-propanol | 3.00 mmol, 0.570 g | [Si](C)(C)(C(C)(C)C)OCCCO | C9H22O2Si
reactant | 4-methylmorpholine | 0.329 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(t-Butyldimethylsilyloxy)-3-(p-nitrophenoxycarbonyloxy)propane | 0.831 g | [Si](C)(C)(C(C)(C)C)OCCCOC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H25NO6Si
